US07259157B2
2-Amino-pyrimidine-5-carboxylic acid [1-(2-p-tolyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amide
The title compound was prepared from C-[1-(2-p-tolyl-ethanesulfonyl)-piperidin-4-yl]-methylamine and 2-tert-butoxycarbonylamino-pyrimidine-5-carboxylic acid, followed by treatment with 4N HCl in dioxane as described in EXAMPLE 192.

reactant | C-[1-(2-p-tolyl-ethanesulfonyl)-piperidin-4-yl]-methylamine | C1(=CC=C(C=C1)CCS(=O)(=O)N1CCC(CC1)CN)C | C15H24N2O2S
reactant | 2-tert-butoxycarbonylamino-pyrimidine-5-carboxylic acid | C(C)(C)(C)OC(=O)NC1=NC=C(C=N1)C(=O)O | C10H13N3O4
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Amino-pyrimidine-5-carboxylic acid [1-(2-p-tolyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amide | C1(=CC=C(C=C1)CCS(=O)(=O)N1CCC(CC1)CNC(=O)C=1C=NC(=NC1)N)C | C20H27N5O3S
